US08748462B2
2-(5,5-Dimethylcyclopent-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (T2.2)
PdCl2(PPh3)2 (0.56 g, 0.80 mmol), PPh3 (0.63 g, 2.40 mmol), bis(pinacolato)diboron (6.80 g, 26.75 mmol) and KOPh (fine powder, 5.30 g, 40.10 mmol) were added to a flask. The flask was flushed with nitrogen and charged with toluene (100 mL) and with T2.1 (6.53 g, 26.75 mmol). The mixture was stirred at 50° C. for 2 hours. The reaction mixture was treated with water at room temperature and extracted with benzene (60×2 mL). The organic layer was dried over MgSO4. The product was then purified by CombiFlash® column chromatography to give intermediate T2.2. 1H NMR (CDCl3) δ 1.04 (s, 6H), 1.18 (s, 12H), 1.57 (t, J=7.1 Hz, 2H), 2.29 (t, J=7.1 Hz, 2H), 6.29 (m, 1H).

reactant | PPh3 | 2.40 mmol, 0.63 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | bis(pinacolato)diboron | 26.75 mmol, 6.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOPh | 40.10 mmol, 5.30 g | O([K])C1=CC=CC=C1
catalyst | PdCl2(PPh3)2 | 0.80 mmol, 0.56 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(5,5-Dimethylcyclopent-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | CC1(CCC=C1B1OC(C(O1)(C)C)(C)C)C | C13H23BO2
